US05736284
(1) 9-Isopropylcarbazole (4b)
16 g (95.7 mmol) of carbazole, 38 g (608.2 mmol) of 85% KOH, 21 g (151.9 mmol) of potassium carbonate, 3.2 g (9.4 mmol) of tetra-n-butylammonium hydrogensulfate and 300 ml of toluene were weighed and put in a 1-liter four neck flask, and 25 g (147.1 mmol) of 2-iodopropane was added little by little from a dropping funnel (heat is slightly developed). Subsequently, the reaction was conducted at a temperature of 60° C. to 80° C. for 7 hours. The disappearance of carbazole was confirmed by TLC and gas chromatography. After cooling, the solution was filtered, and the filtrate was washed with water three times. The toluene phase was dried (MgSO4), and concentrated, thus obtaining 21.5 g of a crude product. The crude product was recrystallized from 2-propanol to obtain 16.35 g of a desired product.

reactant | carbazole | 95.7 mmol, 16 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | KOH | 608.2 mmol, 38 g | [OH-].[K+]
reactant | potassium carbonate | 151.9 mmol, 21 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 147.1 mmol, 25 g | IC(C)C | C3H7I
catalyst | tetra-n-butylammonium hydrogensulfate | 9.4 mmol, 3.2 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 9-Isopropylcarbazole | 16.35 g, Yield; 81.6% | C(C)(C)N1C2=CC=CC=C2C=2C=CC=CC12 | C15H15N
